US07696223B2
a) 4-Butyl-2-tert-butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A solution of 4-bromo-2-tert-butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (244 mg, 0.68 mmol), tetrabutyl tin (573 μL, 1.74 mmol), dichlorobis(triphenylphosphine)-palladium II (49 mg, 0.07 mmol) in 4.6 mL anhydrous DMF was heated to 130° C. for 1 h. The reaction mixture was cooled, diluted with ethyl acetate, and washed successively with water and brine. The organic fraction was dried over anhydrous sodium sulfate, concentrated to a crude residue to give 184 mg of a white solid. MS (ESI+): m/z 337.3 (M+1).

reactant | 4-bromo-2-tert-butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.68 mmol, 244 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)Br)N=C(S2)C(C)(C)C)O | C13H15BrN2O3S
reactant | tetrabutyl tin | 1.74 mmol, 573 μL | C(CCC)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 4.6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)-palladium | 0.07 mmol, 49 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Butyl-2-tert-butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 184 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)CCCC)N=C(S2)C(C)(C)C)O | C17H24N2O3S
